US06331545B1
To a solution of 4-bromoisoquinoline (2.0 g) in 70 mL of toluene was added allyl tributyl stannane (3.28 mL) and Pd(PPh3)4 (1.10 g). The resulting solution was heated at reflux for 12 hours and then cooled to room temperature. The solution was concentrated in vacuo, dissolved in ether and washed successively with an aqueous solution of trithiocyanuric acid trisodium salt, water and brine. The organic layer was then dried over magnesium sulfate, filtered, concentrated in vacuo, and purified using flash chromatography (silica, 0-30% EtOAc/hexanes) to provide 0.965 g of 4-(2-propenyl)-isoquinoline. Mass spectrum [NH3/CI], (M+H)+=170.

reactant | 4-bromoisoquinoline | 2.0 g | BrC1=CN=CC2=CC=CC=C12 | C9H6BrN
reactant | allyl tributyl stannane | 3.28 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 1.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-propenyl)-isoquinoline | 0.965 g | C(C=C)C1=CN=CC2=CC=CC=C12 | C12H11N
